Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Headache, neck pain, right arm numbness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ woman with hypothyroidism,
chronic back pain who presented to the ED for evaluation of
headache, neck pain and right arm numbness for the past 4 days. 
About 4 days ago while patient was working as a ___ in ___
psychiatric unit she was hit in her head with a wooden chair
after which she fell backwards and had brief loss of
consciousness.  Patient also had nausea and vomiting and was
subsequently evaluated in the ED where she had a head CT done
reported as unremarkable.  She was then discharged home without
any further workup.  For the next 4 days Ms. ___ has been
experiencing headache described as pressure-like at times,
throbbing at times, constant relieved by Tylenol which she has
been taking every 6 hours.  Headaches are associated with
photophobia, phonophobia but no nausea or vomiting.  Patient 
also
endorses neck pain that radiates to the back of her head.  For
the past 2 days patient has been experiencing decreased 
sensation
to the right arm.  She had been evaluated previously for 
numbness
to her fingertips which was attributable to carpal tunnel
syndrome were refers that this is a different sensation is
involving her whole arm.  Sensation is intermittent and usually
triggered by some movements.  Patient also endorses that she has
had episodes of urinary incontinence but refers that "if I font
go, then I would have an episode".  She also refers that she has
been drinking a lot of fluid for the past few days.

 
Past Medical History:
Hypothyroidism
Chronic back pain
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION 
 Vitals:  T:98.0, HR:59, BP:148/86, RR:19, O2: 98% RA
 General:  NAD 
 HEENT: NCAT,  no oropharyngeal lesions, neck supple 
 ___: RR
 Pulmonary: Breathing comfortably on room air
 Abdomen: Soft, NT, ND
 Extremities: Warm, no edema
 Back: Tenderness to palpation of C-spine

Neurologic Examination: 
 - Mental status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Attentive, able to name ___ backward
without difficulty. Speech is fluent with full sentences, intact
repetition, and intact verbal comprehension. Naming intact.  No
paraphasias.  No dysarthria. Normal prosody. Able to register 3
objects and recall ___ at 5 minutes. No apraxia. No evidence of
hemineglect. No left-right confusion. Able to follow both 
midline
and appendicular commands. 

 - Cranial Nerves: PERRL 3->2 brisk. VF full to number counting.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. No facial movement asymmetry. Hearing intact to
finger rub bilaterally.  Palate elevation symmetric.
SCM/Trapezius strength ___ bilaterally. Tongue midline. 

 - Motor:  Normal bulk and tone. No drift. No tremor or
asterixis. 
   [___] 
 L    5    5    5    5    5    5   5    5    5   5    5    5 
 R    5    5    5    5-   5-   5   5    5    5   5    5    5 

 - Reflexes:  
    [Bic] [Tri] [___] [Quad] [Gastroc] 
  L  2+    2+     2+      2+       1 
  R  2+    2+     2+      2+       1  
 Plantar response flexor bilaterally 

 - Sensory: Decreased sensation to pin-prick in C5-C7
distribution.  Vibration and proprioception are normal.

 - Coordination: No dysmetria with finger to nose testing
bilaterally. 

 - Gait: Normal initiation. Narrow base. Normal stride length 
and
arm swing. Stable without sway. Negative Romberg.

DISCHARGE PHYSICAL EXAM 

PHYSICAL EXAMINATION 
 Vitals:  T:98.3, HR:75, BP:117/76, RR:20, O2: 98% RA 
 General:  NAD 
 HEENT: NCAT,  no oropharyngeal lesions, neck supple 
 ___: RR
 Pulmonary: Breathing comfortably on room air
 Abdomen: Soft, NT, ND
 Extremities: Warm, no edema
 Back: Tenderness to palpation over rt posterior head 

Neurologic Examination: 
 - Mental status: Awake, alert, oriented x 3. Speaks slowly but 
able to relate
history without difficulty. Occasionally inattentive, able to 
name ___ backward
without difficulty. Speech is fluent with full sentences, intact
repetition, and intact verbal comprehension. Naming intact.  No
paraphasias.  No dysarthria. Normal prosody. Able to register 3
objects and recall ___ at 5 minutes. No apraxia. No evidence of
hemineglect. No left-right confusion. Able to follow both 
midline
and appendicular commands. 

 - Cranial Nerves: PERRL 3->2 brisk. VF full to number counting.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. No facial movement asymmetry. Hearing intact to
finger rub bilaterally.  Palate elevation symmetric.
SCM/Trapezius strength ___ bilaterally. Tongue midline. 

 - Motor:  Normal bulk and tone. No drift. No tremor or
asterixis. 
   [___] 
 L    5    5    5    5    5    5   5    5    5   5    5    5 
 R    5    5    5    5    5    5   5    5    5   5    5    5 

 - Reflexes:  
    [Bic] [Tri] [___] [Quad] [Gastroc] 
  L  2+    2+     2+      2+       1 
  R  2+    2+     2+      2+       1  
 Plantar response flexor bilaterally 

 - Sensory: Of note patient inattentive and would be 
inconsistent with her sensory reporting however no deficits to 
light touch, pinprick or vibration and proprioception. She did 
consistently report pain more in right post head. 

 - Coordination: No dysmetria with finger to nose testing
bilaterally. 

 - Gait: Normal initiation. Narrow base. Normal stride length 
and
arm swing. Stable without sway. Negative Romberg.

 
Pertinent Results:
___ 09:10PM BLOOD WBC-7.3 RBC-4.34 Hgb-12.3 Hct-38.3 MCV-88 
MCH-28.3 MCHC-32.1 RDW-12.2 RDWSD-39.8 Plt ___
___ 09:10PM BLOOD Neuts-47.0 ___ Monos-6.8 Eos-2.2 
Baso-0.3 Im ___ AbsNeut-3.44 AbsLymp-3.19 AbsMono-0.50 
AbsEos-0.16 AbsBaso-0.02
___ 09:10PM BLOOD ___ PTT-30.6 ___
___ 09:10PM BLOOD Glucose-103* UreaN-16 Creat-0.9 Na-138 
K-4.2 Cl-99 HCO3-26 AnGap-17

___ 12:17AM URINE Color-Yellow Appear-Hazy* Sp ___
___ 12:17AM URINE Blood-NEG Nitrite-NEG Protein-30* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-TR*
___ 12:17AM URINE RBC-3* WBC-7* Bacteri-FEW* Yeast-NONE 
Epi-14 TransE-<1
___ 12:17AM URINE Mucous-FEW*

___ 12:17 am URINE

   URINE CULTURE (Preliminary): 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 
      ESCHERICHIA COLI.    >100,000 CFU/mL.  PRESUMPTIVE 
IDENTIFICATION. 
         PREDOMINATING ORGANISM INTERPRET RESULTS WITH CAUTION
 
Brief Hospital Course:
Ms. ___ is a ___ woman with hypothyroidism, chronic 
back pain and recent head injury (w/ brief LOC) with post-injury 
amnesia who presented to the ED for evaluation of headache, neck 
pain and right arm numbness. 

Upon further detailed history taking it was revealed that 
patient has been having right hand numbness chronically and was 
diagnosed with carpal tunnel syndrome however has been 
inconsistent with wrist splint use. She also reported 
intermittent right arm numbness when she would sleep on her hand 
and this preceded trauma. The headache and neck pain did begin 
day of trauma. 

On exam, patient had muscle spasm and tightness over the neck 
muscles but a non-focal neurologic exam, including sensory 
symptoms. C-spine MRI was remarkable for a linear fluid signal 
abnormality within the spinal cord at C2-C3 level, felt 
to likely representing a syringomyelia. This was felt to be an 
incidental, chronic finding which did not account for her 
symptoms. Given her neck pain and subjective sensory changes, 
she also had a CTA head and neck which was negative. 

The etiology of her symptoms were thought to be secondary to 
recent head trauma and likely post-concussive syndrome. She was 
treated with pain medication and muscle relaxants with 
improvement in symptoms. She was encouraged to wear a wrist 
brace for her carpal tunnel. 

She was also found to have a UTI and treated with Macrobid, to 
complete a 3 day course. 

Follow-up with neurology was scheduled and plan was to have 
repeat MRI c spine in 2months.

Transition of Care: 
- patient diagnosed with post concussive syndrome, syringomyelia 
felt to be chronic and incidental finding
- patient started on muscle relaxants and pain medication for 
muscle pain 
- patient found to have uncomplicated UTI, treat with 3days of 
Macrobid 
- repeat MRI c spine in 2months 
- recommend brain rest, return to activity as tolerated 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 200 mcg PO DAILY 
2. Hydrochlorothiazide 12.5 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
RX *acetaminophen 650 mg 1 tablet(s) by mouth every six (6) 
hours Disp #*30 Tablet Refills:*0 
2.  Cyclobenzaprine 10 mg PO BID:PRN muscle spasm 
RX *cyclobenzaprine 10 mg 1 tablet(s) by mouth twice a day Disp 
#*30 Tablet Refills:*0 
3.  Lidocaine 5% Patch 1 PTCH TD QAM 
RX *lidocaine 5 % 1 patch every morning Disp #*30 Patch 
Refills:*0 
4.  Nitrofurantoin Monohyd (MacroBID) 100 mg PO Q12H Duration: 3 
Days 
RX *nitrofurantoin monohyd/m-cryst 100 mg 1 capsule(s) by mouth 
twice a day Disp #*5 Capsule Refills:*0 
5.  Hydrochlorothiazide 12.5 mg PO DAILY  
6.  Levothyroxine Sodium 200 mcg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Post-concussive syndrome
Syringomyelia C2-3
UTI
Right carpal tunnel syndrome

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to ___ with headaches, neck pain and right arm 
numbness after a head trauma. Your neurologic exam was notable 
for muscle spasm but otherwise normal. You had an MRI of your 
cervical spine which showed an incidental finding of a small 
fluid filled space in your spinal cord, called "syringomyelia." 
This is most likely not causing your symptoms. You also had a 
CTA of your head and neck which did not show any blood vessel 
abnormality. 

You most likely have post-concussive syndrome and this will 
improve over time with pain medication and exercise as well as 
good sleep. 

You will be contacted for a follow-up appointment with Dr. ___.

It was a pleasure taking care of you, 
Your ___ Neurologists

 
Followup Instructions:
___